2137-12-16 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt. now w/ WBC elevation, no fevers.  Sputum [**12-11**] - negative,
   12/5showed GNRs but no growth, per Micro lab, likely an anaerobe from
   oral flora.  UCx negative so far.  Given new WBC repeated U/A/Cx and
   Sputum today.  CXR showed L consolidation improved, R consolidation
   worsened and sm R pl effusion is larger.  Changed lasix gtt to IV 80mg
   [**Hospital1 **], patient -1.4L @ 11pm.  Received 500cc of free water, Na 146, K
   4.0, Cr 2.5.  Pt weaned to 2L NC w/ sats in 95-97%.  Coumadin was
   started today for evetual bridge off heparin. A-line removed.   Will
   have speech and swallow on Monday.  Pt. is more alert, but continues to
   be disoriented, responds incongruently.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-16**] 01:01 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-15**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-16**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 84 (72 - 97) bpm
   BP: 114/57(70) {106/36(58) - 140/73(81)} mmHg
   RR: 25 (17 - 33) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.5 kg (admission): 77.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,415 mL
                                                                    120 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,175 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,810 mL
                                                                    580 mL
   Urine:
                                                                  3,810 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,395 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Middle-aged male lying in, somnolent but responsive
   to simple commands
   HEENT: Eyes closed, but open on command, reactive 3->2mm
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles at bases b/l
   Abdominal: +BS Soft
   Extremities: warm and well perfused, no edema b/l, dopplerable DP
   pulse.
   Skin:  Pt with R buttock 5x12cm purpuric, nonblanching lesion,
   non-bleeding.  There is a stage II ulcer at center of the purpuric
   lesion w/ bellow blister and additional ulcerated blister in the
   periphery.  This is unchanged
   Neurologic: Opens eyes to voice, responds incoherently to voice.  Moves
   extremities on command.
   Labs / Radiology
   384 K/uL
   9.9 g/dL
   163 mg/dL
   2.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   66 mg/dL
   109 mEq/L
   150 mEq/L
   29.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2137-12-13**]  04:01 PM
                             [**2137-12-14**]  03:08 AM
                             [**2137-12-14**]  04:06 AM
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
   WBC
   9.7
   14.7
   15.1
   Hct
   29.6
   28.5
   27.1
   29.0
   Plt
   280
   349
   384
   Cr
   2.3
   2.4
   2.4
   2.5
   2.5
   TCO2
   30
   28
   28
   26
   Glucose
   173
   131
   153
   163
   Other labs: PT / PTT / INR:15.9/86.5/1.4, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Now with Leukocytosis of unclear
   origin.
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Continue  Metoprolol 25 mg [**Hospital1 **]
   - Started Captopril 6.25 mg PO TID, will change to lisinopril prior to
   d/c.
   - Heparin gtt, will start Warfarin today
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.  Required lasix gtt increase to
   12mg/hr to obtain U/O > 100cc.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of
   19 and RVEDP of 9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but
   still has elevated JVP, this has been unchanged since [**12-14**].  Pt.
   continues to have O2 requirement, but this is likely from a
   - Will change lasix gtt to 80mg IV BID for transition to oral regiment
   eventually.
   - Continue BB, Captopril 6.25mg PO TID
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - Heparin IV  gtt, will transition to coumadin today.
   # PULM/Leukocytosis:  Deoxygenation initially felt to be [**2-9**] CHF, but
   also being treated for PNA given CXR findings and Leukocytosis
   (developed after ABx initiation)  UA from [**12-13**] and Cx negative.  BCx
   negative to date.  Has been on Vanc and Zosyn for possible VAP.
   Afebrile o/n, sputum GNRs but no growth on Cx.  Extubated.   Pt. still
   has aline in. so may be related to line infection.  Source of infection
   is unclear
   - con
t vanc and zosyn. Today is day # 7 of Vancomycin, day # 8 of
   zosyn, plan is for total of 10-14d, but will reassess
   - f/u cultures
   - U/A and Cx given new WBC count, repeat  Sputum
   - d/c arterial line.
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 27.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   -          Monitor after adding Captopril
   -          Will monitor Cr
   # Hypernatremia.  Na 148, [**2-9**] free water deficit likely 2L.  As pt not
   taking consistent Pos, will give 500cc D5W and encourage PO intake.
   - Repeat Na in AM.
   ICU Care
   Nutrition: Regular, Heart Healthy diet.
   Glycemic Control:  ISS
   Lines:  3 PIVs, 20g
   20 Gauge - [**2137-12-11**] 12:15 AM
   Arterial Line - [**2137-12-11**] 10:40 AM
   Prophylaxis:
   DVT:  Heparin gtt, will transition to coumadin.
   Stress ulcer:  Famotidine
   VAP:  see above
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now, will consider call out to floor tomorrow AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-12-13**] 08:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-12-16 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt. now w/ WBC elevation, no fevers.  Sputum [**12-11**] - negative,
   12/5showed GNRs but no growth, per Micro lab, likely an anaerobe from
   oral flora.  UCx negative so far.  Given new WBC repeated U/A/Cx and
   Sputum today.  CXR showed L consolidation improved, R consolidation
   worsened and sm R pl effusion is larger.  Changed lasix gtt to IV 80mg
   [**Hospital1 **], patient -1.4L @ 11pm.  Received 500cc of free water, Na 146, K
   4.0, Cr 2.5.  Pt weaned to 2L NC w/ sats in 95-97%.  Coumadin was
   started this  am for eventual bridge off heparin.  A-line was
   removed.   Will have speech and swallow on today.  Pt. is more alert
   yesterday, but continued to be disoriented, responding incongruently.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-16**] 01:01 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-15**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-16**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 84 (72 - 97) bpm
   BP: 114/57(70) {106/36(58) - 140/73(81)} mmHg
   RR: 25 (17 - 33) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.5 kg (admission): 77.6 kg
   Height: 70 Inch
    Telemetry: HR in 80s, [**8-18**] run of  NSVT
   Total In:
                                                                  1,415 mL
                                                                    120 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  1,175 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,810 mL
                                                                    580 mL
   Urine:
                                                                  3,810 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,395 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert
   HEENT: Eyes open reactive 3->2mm, EOMs intact.
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles L
 up post. Lung field, R 1/3 up post
   lung field
   Abdominal: +BS Soft
   Extremities: warm and well perfused, no edema b/l, dopplerable DP
   pulse.
   Skin:  Pt with R buttock 5x12cm purpuric, nonblanching lesion,
   non-bleeding.  There is a stage II ulcer at center of the purpuric
   lesion w/ bellow blister and additional ulcerated blister in the
   periphery.  This is slightly improved with decreased erythema.
   Neurologic: Opens eyes to voice, alert, oriented to place [**1-10**], not to
   time.  Responds to voice, with difficult to interpret speech, unclear
   whether pt responding in Lebanese vs. English.  Pt. able to follow
   commands.  Lower extremities hip flx and leg flx 4+/5 b/l, DTRs 1+ b/l,
   negative Babinski b/l.  UE limited ROM on R with no abduction past
   -10degrees, and full on L.  Strength grossly intact proximal to
   distal.  CNs V, VII
 XII grossly intact.  Unable to assess recall,
   attention formally.
   Labs / Radiology
   384 K/uL
   9.9 g/dL
   163 mg/dL
   2.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   66 mg/dL
   109 mEq/L
   150 mEq/L
   29.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2137-12-13**]  04:01 PM
                             [**2137-12-14**]  03:08 AM
                             [**2137-12-14**]  04:06 AM
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
   WBC
   9.7
   14.7
   15.1
   Hct
   29.6
   28.5
   27.1
   29.0
   Plt
   280
   349
   384
   Cr
   2.3
   2.4
   2.4
   2.5
   2.5
   TCO2
   30
   28
   28
   26
   Glucose
   173
   131
   153
   163
   Other labs: PT / PTT / INR:15.9/86.5/1.4, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   CXR
 Imroved vascular markings, Persistent RLL opacity (PRELIM),
   suggestive of cardiomegaly
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Now with Leukocytosis of unclear
   origin.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also has been
   treated for PNA given CXR findings and Leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP.  Afebrile o/n, sputum GNRs but no growth on Cx,
   additional sample sent.   Pt. continues to be tachypneic w/ RR in 25-30
   this am.  Source of this unclear, but relative alkalemia from diuresis
   likely contributing.  CXR today improved
   - Con
t vancomycin and zosyn for VVAP.  Day # 8 of Vancomycin, day #
   9of zosyn, plan is for total of 10-14d, but will reassess on daily
   basis.  Vanco level was 18, but not trough, thus will resend today and
   can readdress Vanco dosing based on this.
   - Continue pulmonary toilet with chest PT
   - d/c scopolamine patch as secretions overall improved.
   # Leukocytosis.  Source unclear.  UA from [**12-13**] and Cx negative, [**12-15**]
   U/A negative w/ Cx pending.  BCx negative to date.  Has been on Vanc
   and Zosyn for possible VAP, XR w/ persistent RLL infiltrate.  Afebrile
   x2d, sputum GNRs but no growth on Cx.  Foley in place.  Aline d/ced.
   Source of infection or whether this is an active infection is unclear
   given no temp, but in this elderly male he may not be able to mount a
   temp.    Has had 3 loose BMs this am, thus C.diff on ddx.
   -          F/U BCx, Sputum and Urine studies.
   -          Cont. ABx as above.
   -          Will send C.diff
   # Altered mental status.  Pt waxing and [**Doctor Last Name 282**], most likely delirium
   [**2-9**] ICU setting and previous intubation/sedation.  Slowly improving but
   pt continues to be agitated and requires 1:1.  Has not received any
   psychotropic meds but was on scopolamine.  Possibly [**2-9**] underlying
   infection, hypernatremia.  D/ced all lines, but pt continues to require
   supplemental O2.  No localizable neurologic findings on exam.  CT head
   of low yield.
   -          Frequent reorientation, d/c foley catheter, wean O2 as
   tolerated to remove NC, will attempt to minimize restraint use
   -          Tx hypernatremia, will start w/ 1L D5W and monitor BG.
   -          OOB to chair today, sleep hygiene (maintain awake status
   throughout the day, lights off at night, TV off)
   -          Haldol 0.5-1mg prn HS for agitation
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Continue  Metoprolol 25 mg [**Hospital1 **]
   - increase Captopril 12.5  mg PO TID, will change to lisinopril prior
   to d/c.
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.  Required lasix gtt increase to
   12mg/hr to obtain U/O > 100cc.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of
   19 and RVEDP of 9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but
   still has elevated JVP, this has been unchanged since [**12-14**].  Pt.
   continues to have O2 requirement, but this is likely from a
   - Will change lasix gtt to 80mg IV BID for transition to oral regiment
   eventually.
   - Continue BBk, Captopril increased 12.5mg PO TID to decrease afterload
   in this pt w/ severe MR.  Goal BPs < 120 systolic w/o orthostatics.
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - Heparin IV gtt, will transitioning to coumadin, PTT at goal, INR 1.4
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 27.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   -          Monitor after adding Captopril
   -          Will monitor Cr
   # Hypernatremia.  Na 150, [**2-9**] free water deficit likely 2.5L.  As pt
   not taking consistent Pos, will give 1Lcc D5W and encourage PO intake.
   - Repeat Na in HS and reassess for more free water.
   ICU Care
   Nutrition: Regular, Heart Healthy diet.
   Glycemic Control:  ISS
   Lines:  3 PIVs, 20g
   20 Gauge - [**2137-12-11**] 12:15 AM
   Prophylaxis:
   DVT:  Heparin gtt, transitioning to coumadin.
   Stress ulcer:  Protonix
   VAP:  see above
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now, will consider call out to floor tomorrow AM.

2137-12-17 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with 3+MR
   s/p cath with no intervention.
   24 Hour Events:
   Given 500cc of D5W for hypernatremia, Na rechecked was 143 in the
   evening.
   Speech and swallow recommended thin liquids and ground solids, pills
   crushed in purees.
   Was agitated overnight, got total of 2.5mg IV Haldol, 5mg Zyprexa,
   0.5mg Ativan.  Was tachycardic and got extra 25mg of Metoprolol.
   Got Lasix 80mg IV X 2 yesterday for diuresis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-16**] 09:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-17**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-12-16**] 09:30 AM
   Lorazepam (Ativan) - [**2137-12-17**] 12:00 AM
   Haloperidol (Haldol) - [**2137-12-17**] 01:00 AM
   Furosemide (Lasix) - [**2137-12-17**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-17**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 97 (69 - 131) bpm
   BP: 115/62(76) {110/37(60) - 152/98(117)} mmHg
   RR: 32 (20 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.7 kg (admission): 77.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,060 mL
                                                                    235 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,700 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    485 mL
   Urine:
                                                                  2,350 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -290 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert
   HEENT: Eyes open reactive 3->2mm, EOMs intact.
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles throughout lung fields, greater at the
   bases
   Abdominal: +BS Soft
   Extremities: warm and well perfused, no edema b/l, dopplerable DP
   pulse.
   Skin:  Stage II ulcer on R buttock
   Neurologic: Alert, oriented X 2 (person, hospital, not time)  Pt. able
   to follow commands.  Strength grossly intact proximal to distal.  CNs
   V, VII
 XII grossly intact.  Speaking in Arabic and English.
   Labs / Radiology
   412 K/uL
   9.6 g/dL
   167 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.7 mEq/L
   59mg/dL
   104 mEq/L
   136 mEq/L
   28.6 %
   16.0 K/uL
        [image002.jpg]
   PTT 121.5
   INR 1.9
                             [**2137-12-14**]  03:08 AM
                             [**2137-12-14**]  04:06 AM
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
                             [**2137-12-16**]  05:08 PM
   WBC
   9.7
   14.7
   15.1
   Hct
   28.5
   27.1
   29.0
   Plt
   280
   349
   384
   Cr
   2.3
   2.4
   2.4
   2.5
   2.5
   2.4
   TCO2
   30
   28
   28
   26
   Glucose
   173
   131
   153
   163
   264
   Other labs: PT / PTT / INR:15.9/86.5/1.4, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:14.0 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Was intubated, now extuabated
   with leukocytosis, treating for PNA.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also has been
   treated for PNA given CXR findings and leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP.  Has been afebrile with sputums showing GNRs and no
   growth on culture.  Pt. continues to be tachypneic w/ RR in 25-30.
   Source of this unclear.  CXR consistent with volume overload.
   - Con
t vancomycin and zosyn for VVAP.  Day # 9 of Vancomycin, day # 10
   of zosyn, plan is for 10 day course total (last day is tomorrow).
   - Continue pulmonary toilet with chest PT
   - Continue diuresis with Lasix gtt and Chlorothiazide with goal of -1L
   today
   # Leukocytosis.  Source unclear.  UA from [**12-13**] and Cx negative, [**12-16**]
   Urine cultures negative.  BCx negative to date.  Has been on Vanc and
   Zosyn for possible VAP, CXR w/ persistent RLL infiltrate.  Afebrile
   x3d, sputum GNRs but no growth on Cx.  Foley in place.  Aline d/ced.  C
   diff negative X 1.  [**Month (only) 11**] be stress response given that platelets are
   also rising.
   - F/U BCx, Sputum and Urine studies.
   - Cont. ABx as above.
   - Will send 2^nd C. Diff
   # Altered mental status.  Pt waxing and [**Doctor Last Name 282**], most likely delirium
   [**2-9**] ICU setting and previous intubation/sedation.  Slowly improving but
   pt continues to be agitated.  Has not received any psychotropic meds
   but was on scopolamine.  Possibly [**2-9**] underlying infection, ICU
   delirium is most likley.  D/ced all lines, but pt continues to require
   supplemental O2.  No localizable neurologic findings on exam.  CT head
   of low yield.
   - Frequent reorientation, wean O2 as tolerated to remove NC, will
   attempt to minimize restraint use
   - continue to mobilize patient, OOB to chair, sleep hygiene (maintain
   awake status throughout the day, lights off at night, TV off)
   - Will try standing Seroquel 25mg PO qHS for sedation with PRN Haldol
   or Zyprexa
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Continue  Metoprolol 25 mg [**Hospital1 **]
   - Captopril 12.5  mg PO TID, will change to lisinopril prior to d/c.
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.  Required lasix gtt increase to
   12mg/hr to obtain U/O > 100cc.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of
   19 and RVEDP of 9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but
   still has elevated JVP, this has been unchanged since [**12-14**].  Pt.
   continues to have O2 requirement, likely from failure.
   - Lasix gtt today with Chlorothiazide for goal diuresis
 1L.
   - Continue BBk, Captopril 12.5mg PO TID to decrease afterload in this
   pt w/ severe MR.  Goal BPs < 120 systolic w/o orthostatics.
   - continue Heparin for LV thrombus, transitioning to Coumadin
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - Heparin IV gtt, will transitioning to coumadin, PTT at goal, INR 1.4
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 27.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   - continue to monitor
   # FEN:  Cardiac, diabetic diet, replete electrolytes PRN
   .
   # Prophylaxis: systemic anticoagulation for DVT prophylaxis, no
   indication for stress ulcer prophylaxis, pt is on bowel regimen
   .
   # Code: FULL
   .
   # Dispo: call out to floor

2137-12-17 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with 3+MR
   s/p cath with no intervention.
   24 Hour Events:
   The patient continued to have a leukocytosis, but was afebrile.  His
   nitro gtt was weaned off in the am.  Per Dr. [**Last Name (STitle) 1795**] he wants a full 10
   days of both antibiotics (so they can be dc'ed on Wednesday).  His
   captopril was increased to 12.5 mg tid for afterload reduction.  He was
   given 500 cc of D5W for correction of hypernatremia his Na on recheck
   in the evening was 143 (from 150).  He is transitioning on coumadin,
   still on a heparin gtt.  His famotidine and scopolamine were stopped
   given his continued confusion.  He recevied 80 mg of lasix IV x1 per
   Dr. [**Last Name (STitle) 1795**] for a goal of 1 L negative.  Speech and swallow saw him and
   recommended thin liquids and ground consistency solids with supervision
   and pills to be crushed in purees.
   Due to agitation he was given haldol 0.5 mg IV x1, then 1 mg IV x1.
   Later on in the night he was given 5 mg of zyprexa for agitation.  He
   continued to have more agitation and was given 0.5 mg of lorazepam and
   then another 1 mg IV haldol.  He had HRs in the 120's to 130's (EKG
   showed a.fib with RBBB - unchanged from previous EKGs).  His
   tachycardia was likely secondary to his agitation; however his rates
   only returned to the 100s once he quieted down so he was given an extra
   po dose of metoprolol 25 mg x1.  Also gave 80 mg IV lasix at night as
   he was only 300 cc negative and his goal was 1 L negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-16**] 09:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-17**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-12-16**] 09:30 AM
   Lorazepam (Ativan) - [**2137-12-17**] 12:00 AM
   Haloperidol (Haldol) - [**2137-12-17**] 01:00 AM
   Furosemide (Lasix) - [**2137-12-17**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-17**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 97 (69 - 131) bpm
   BP: 115/62(76) {110/37(60) - 152/98(117)} mmHg
   RR: 32 (20 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.7 kg (admission): 77.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,060 mL
                                                                    235 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,700 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    485 mL
   Urine:
                                                                  2,350 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -290 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert
   HEENT: Eyes open reactive 3->2mm, EOMs intact.
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles L
 up post. Lung field, R 1/3 up post
   lung field
   Abdominal: +BS Soft
   Extremities: warm and well perfused, no edema b/l, dopplerable DP
   pulse.
   Skin:  Pt with R buttock 5x12cm purpuric, nonblanching lesion,
   non-bleeding.  There is a stage II ulcer at center of the purpuric
   lesion w/ bellow blister and additional ulcerated blister in the
   periphery.  This is slightly improved with decreased erythema.
   Neurologic: Opens eyes to voice, alert, oriented to place [**1-10**], not to
   time.  Responds to voice, with difficult to interpret speech, unclear
   whether pt responding in Lebanese vs. English.  Pt. able to follow
   commands.  Lower extremities hip flx and leg flx 4+/5 b/l, DTRs 1+ b/l,
   negative Babinski b/l.  UE limited ROM on R with no abduction past
   -10degrees, and full on L.  Strength grossly intact proximal to
   distal.  CNs V, VII
 XII grossly intact.  Unable to assess recall,
   attention formally.
   Labs / Radiology
   384 K/uL
   9.9 g/dL
   264 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.7 mEq/L
   62 mg/dL
   103 mEq/L
   142 mEq/L
   29.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2137-12-14**]  03:08 AM
                             [**2137-12-14**]  04:06 AM
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
                             [**2137-12-16**]  05:08 PM
   WBC
   9.7
   14.7
   15.1
   Hct
   28.5
   27.1
   29.0
   Plt
   280
   349
   384
   Cr
   2.3
   2.4
   2.4
   2.5
   2.5
   2.4
   TCO2
   30
   28
   28
   26
   Glucose
   173
   131
   153
   163
   264
   Other labs: PT / PTT / INR:15.9/86.5/1.4, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:14.0 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   TTE [**12-16**]:   The left atrium is moderately dilated. The estimated right
   atrial pressure is 0-10mmHg. The left ventricular cavity is severely
   dilated with severe hypo/akinesis of the inferior and inferolateral
   walls and mild-moderate hypokinesis of the remaining segments (LVEF =
   25-30 %). [Intrinsic left ventricular systolic function is likely more
   depressed given the severity of valvular regurgitation.] The right
   ventricular cavity is mildly dilated with moderate global free wall
   hypokinesis. Moderate to severe (3+) mitral regurgitation is seen.
   There is at least mild pulmonary artery systolic hypertension. Compared
   with the prior study (images reviewed) of [**2137-12-10**], the distal
   anterior function is improved and the severity of tricuspid
   regurgitation and pulmonary artery systolic hypertension are lower.
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Now with Leukocytosis of unclear
   origin.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also has been
   treated for PNA given CXR findings and Leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP.  Afebrile o/n, sputum GNRs but no growth on Cx,
   additional sample sent.   Pt. continues to be tachypneic w/ RR in 25-30
   this am.  Source of this unclear, but relative alkalemia from diuresis
   likely contributing.  CXR today improved
   - Con
t vancomycin and zosyn for VVAP.  Day # 8 of Vancomycin, day #
   9of zosyn, plan is for total of 10-14d, but will reassess on daily
   basis.  Vanco level was 18, but not trough, thus will resend today and
   can readdress Vanco dosing based on this.
   - Continue pulmonary toilet with chest PT
   - d/c scopolamine patch as secretions overall improved.
   # Leukocytosis.  Source unclear.  UA from [**12-13**] and Cx negative, [**12-15**]
   U/A negative w/ Cx pending.  BCx negative to date.  Has been on Vanc
   and Zosyn for possible VAP, XR w/ persistent RLL infiltrate.  Afebrile
   x2d, sputum GNRs but no growth on Cx.  Foley in place.  Aline d/ced.
   Source of infection or whether this is an active infection is unclear
   given no temp, but in this elderly male he may not be able to mount a
   temp.    Has had 3 loose BMs this am, thus C.diff on ddx.
   -          F/U BCx, Sputum and Urine studies.
   -          Cont. ABx as above.
   -          Will send C.diff
   # Altered mental status.  Pt waxing and [**Doctor Last Name 282**], most likely delirium
   [**2-9**] ICU setting and previous intubation/sedation.  Slowly improving but
   pt continues to be agitated and requires 1:1.  Has not received any
   psychotropic meds but was on scopolamine.  Possibly [**2-9**] underlying
   infection, hypernatremia.  D/ced all lines, but pt continues to require
   supplemental O2.  No localizable neurologic findings on exam.  CT head
   of low yield.
   -          Frequent reorientation, d/c foley catheter, wean O2 as
   tolerated to remove NC, will attempt to minimize restraint use
   -          Tx hypernatremia, will start w/ 1L D5W and monitor BG.
   -          OOB to chair today, sleep hygiene (maintain awake status
   throughout the day, lights off at night, TV off)
   -          Haldol 0.5-1mg prn HS for agitation
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Continue  Metoprolol 25 mg [**Hospital1 **]
   - increase Captopril 12.5  mg PO TID, will change to lisinopril prior
   to d/c.
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.  Required lasix gtt increase to
   12mg/hr to obtain U/O > 100cc.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of
   19 and RVEDP of 9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but
   still has elevated JVP, this has been unchanged since [**12-14**].  Pt.
   continues to have O2 requirement, but this is likely from a
   - Will change lasix gtt to 80mg IV BID for transition to oral regiment
   eventually.
   - Continue BBk, Captopril increased 12.5mg PO TID to decrease afterload
   in this pt w/ severe MR.  Goal BPs < 120 systolic w/o orthostatics.
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - Heparin IV gtt, will transitioning to coumadin, PTT at goal, INR 1.4
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 27.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   -          Monitor after adding Captopril
   -          Will monitor Cr
   # Hypernatremia.  Na 150, [**2-9**] free water deficit likely 2.5L.  As pt
   not taking consistent Pos, will give 1Lcc D5W and encourage PO intake.
   - Repeat Na in HS and reassess for more free water.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-12-13**] 08:59 PM
   20 Gauge - [**2137-12-16**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-12-18 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Put on Lasix gtt with diuril X 1.  Got seroquel in the evening.
   Metoprolol changed to 25mg PO TID.  Heparin continued due to LV
   thrombus, then stopped in the evening when INR was 3.0.  Slept
   overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-17**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-18**] 12:39 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2137-12-17**] 08:33 AM
   Haloperidol (Haldol) - [**2137-12-17**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-18**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 86 (80 - 122) bpm
   BP: 112/41(58) {108/41(58) - 153/76(95)} mmHg
   RR: 26 (22 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.7 kg (admission): 77.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,291 mL
                                                                    257 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  1,011 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    560 mL
   Urine:
                                                                  2,300 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,009 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert
   HEENT: Eyes open reactive 3->2mm, EOMs intact.
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles throughout lung fields, greater at the
   bases
   Abdominal: +BS Soft
   Extremities: warm and well perfused, no edema b/l, dopplerable DP
   pulse.
   Skin:  Stage II ulcer on R buttock
   Neurologic: Alert, oriented X 2 (person, hospital, not time)  Pt. able
   to follow commands.  Strength grossly intact proximal to distal.  CNs
   V, VII
 XII grossly intact.  Speaking in Arabic and English.
   Labs / Radiology
   412 K/uL
   9.6 g/dL
   167 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.7 mEq/L
   59 mg/dL
   102 mEq/L
   142 mEq/L
   28.6 %
   16.0 K/uL
        [image002.jpg]
                             [**2137-12-14**]  04:06 AM
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
                             [**2137-12-16**]  05:08 PM
                             [**2137-12-17**]  06:26 AM
   WBC
   14.7
   15.1
   16.0
   Hct
   27.1
   29.0
   28.6
   Plt
   349
   384
   412
   Cr
   2.4
   2.4
   2.5
   2.5
   2.4
   2.4
   TCO2
   30
   28
   28
   26
   Glucose
   131
   153
   163
   264
   167
   Other labs: PT / PTT / INR:29.5/103.9/3.0, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:13.2 %, Mono:1.7 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Was intubated, now extuabated
   with leukocytosis, treating for PNA.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also has been
   treated for PNA given CXR findings and leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP.  Has been afebrile with sputums showing GNRs and no
   growth on culture.  Pt. continues to be tachypneic w/ RR in 25-30.
   Source of this unclear.  CXR consistent with volume overload.
   - Con
t vancomycin and zosyn for VVAP.  Day # 9 of Vancomycin, day # 10
   of zosyn, plan is for 10 day course total (last day is tomorrow).
   - Continue pulmonary toilet with chest PT
   - Continue diuresis with Lasix gtt and Chlorothiazide with goal of -1L
   today
   # Leukocytosis.  Source unclear.  UA from [**12-13**] and Cx negative, [**12-16**]
   Urine cultures negative.  BCx negative to date.  Has been on Vanc and
   Zosyn for possible VAP, CXR w/ persistent RLL infiltrate.  Afebrile
   x3d, sputum GNRs but no growth on Cx.  Foley in place.  Aline d/ced.  C
   diff negative X 1.  [**Month (only) 11**] be stress response given that platelets are
   also rising.
   - F/U BCx, Sputum and Urine studies.
   - Cont. ABx as above.
   - Will send 2^nd C. Diff
   # Altered mental status.  Pt waxing and [**Doctor Last Name 282**], most likely delirium
   [**2-9**] ICU setting and previous intubation/sedation.  Slowly improving but
   pt continues to be agitated.  Has not received any psychotropic meds
   but was on scopolamine.  Possibly [**2-9**] underlying infection, ICU
   delirium is most likley.  D/ced all lines, but pt continues to require
   supplemental O2.  No localizable neurologic findings on exam.  CT head
   of low yield.
   - Frequent reorientation, wean O2 as tolerated to remove NC, will
   attempt to minimize restraint use
   - continue to mobilize patient, OOB to chair, sleep hygiene (maintain
   awake status throughout the day, lights off at night, TV off)
   - Will try standing Seroquel 25mg PO qHS for sedation with PRN Haldol
   or Zyprexa
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Continue  Metoprolol 25 mg [**Hospital1 **]
   - Captopril 12.5  mg PO TID, will change to lisinopril prior to d/c.
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.  Required lasix gtt increase to
   12mg/hr to obtain U/O > 100cc.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of
   19 and RVEDP of 9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but
   still has elevated JVP, this has been unchanged since [**12-14**].  Pt.
   continues to have O2 requirement, likely from failure.
   - Lasix gtt today with Chlorothiazide for goal diuresis
 1L.
   - Continue BBk, Captopril 12.5mg PO TID to decrease afterload in this
   pt w/ severe MR.  Goal BPs < 120 systolic w/o orthostatics.
   - continue Heparin for LV thrombus, transitioning to Coumadin
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - Heparin IV gtt, will transitioning to coumadin, PTT at goal, INR 1.4
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 27.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   - continue to monitor
   # FEN:  Cardiac, diabetic diet, replete electrolytes PRN
   .
   # Prophylaxis: systemic anticoagulation for DVT prophylaxis, no
   indication for stress ulcer prophylaxis, pt is on bowel regimen
   .
   # Code: FULL
   .
   # Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-12-17**] 12:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-12-18 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Put on Lasix gtt with diuril X 1.  Got seroquel in the evening.
   Metoprolol changed to 25mg PO TID.  Heparin continued due to LV
   thrombus, then stopped in the evening when INR was 3.0.  Slept
   overnight.  This AM denies CP, has SOB that is unchanged from
   yesterday, no abdominal pain or Has.  Able to vocalize clearly that he
   is in hospital, oriented to self but not time.  Continues w/ Poor PO
   intake.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-17**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-18**] 12:39 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2137-12-17**] 08:33 AM
   Haloperidol (Haldol) - [**2137-12-17**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-18**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 86 (80 - 122) bpm
   BP: 112/41(58) {108/41(58) - 153/76(95)} mmHg
   RR: 26 (22 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.7 kg (admission): 77.6 kg
   Height: 70 Inch
   Telemetry:
   80-90s, w/ 4-10b NSVT as prior.
   Total In:
                                                                  1,291 mL
                                                                    257 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  1,011 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    560 mL
   Urine:
                                                                  2,300 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,009 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert,
   communicative
   HEENT: Eyes open reactive 3->2mm, EOMs intact, no sinus tenderness, no
   PND.
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles throughout lung fields
 up fields, L >
   R.
   Abdominal: +BS Soft
   Extremities: warm and well perfused, no edema b/l, dopplerable DP
   pulse.
   Skin:  Stage II ulcer on R buttock
   Neurologic: Alert, oriented X 2 (person, hospital, not time)  Pt. able
   to follow commands.  Strength grossly intact proximal to distal.  CNs
   V, VII
 XII grossly intact.  Speaking in Arabic and English.
   Labs / Radiology
   418 K/uL
   9.4 g/dL
   136 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.9
   57 mg/dL
   102 mEq/L
   143 mEq/L
   28
   14.4 K/uL
        [image002.jpg]
   PT/PTT/INR 30/24/3.1
   Ca/PO4/Mg 8.8/2.4/4.1
   CXR prelim -
   Improvement of pulmonary edema with still present multiple parenchymal
   opacities consistent with infectious process
                             [**2137-12-14**]  04:06 AM
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
                             [**2137-12-16**]  05:08 PM
                             [**2137-12-17**]  06:26 AM
   WBC
   14.7
   15.1
   16.0
   Hct
   27.1
   29.0
   28.6
   Plt
   349
   384
   412
   Cr
   2.4
   2.4
   2.5
   2.5
   2.4
   2.4
   TCO2
   30
   28
   28
   26
   Glucose
   131
   153
   163
   264
   167
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Was intubated, now extuabated
   with leukocytosis, treating for PNA.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also has been
   treated for PNA given CXR findings and leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP, completed 10d course.  CXR unchanged from prior.  Has
   been afebrile with sputums showing GNRs and no growth on culture.  Pt.
   continues to be tachypneic w/ RR in 25-30.  Source of this unclear, but
   unlikely PNA at this point.  CXR changes persistent likely [**2-9**] old
   PNA..
   - Discontinue vancomycin and zosyn, completed 10d.
   - Continue pulmonary toilet with chest PT
   - Continue diuresis goal of -1L today
   # Leukocytosis.  Source unclear.  UA from [**12-13**] and Cx negative, [**12-16**]
   Urine cultures negative.  BCx negative to date.  Has been on Vanc and
   Zosyn for possible VAP, CXR w/ persistent RLL infiltrate.  Afebrile
   x4d, sputum GNRs but no growth on Cx.  Foley in place.  Aline d/ced.  C
   diff negative X 2.  [**Month (only) 11**] be stress response given that platelets are
   also rising.  No sinus tenderness on exam, no post nasal drip.  Will
   consider sinus CT of persistent WBC elevation and fever.
   - F/U BCx, Sputum studies.
   - d/c ABx
   # Altered mental status.  Pt waxing and [**Doctor Last Name 282**], most likely delirium
   [**2-9**] ICU setting and previous intubation/sedation.  Slowly improving but
   pt continues to be agitated at times.  Seroquel with good effect.
   D/ced all lines, but pt continues to require supplemental O2, this is
   likely [**2-9**] CHF.  No localizable neurologic findings on exam.  CT head
   of low yield.
   - Frequent reorientation, wean O2 as tolerated to remove NC, will
   attempt to minimize restraint use
   - continue to mobilize patient, OOB to chair, sleep hygiene (maintain
   awake status throughout the day, lights off at night, TV off)
   - Contianue Seroquel 25mg PO qHS for sedation with PRN Haldol
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Change  Metoprolol 25 mg [**Hospital1 **] to Carvedilol 12.5mg [**Hospital1 **] give elevated
   BPs.
   - Captopril 12.5 mg PO TID, will change to lisinopril prior to d/c.
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.   Required 10mg/hr lasix gtt for
   negative 1.3L.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of 19 and RVEDP of
   9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but still has
   elevated JVP, this has been unchanged since [**12-14**].  Pt. continues to
   have O2 requirement, likely from failure.
   - Will change lasix gtt to PO lasix 160 qam w/ metolazone 5mg and 80mg
   in afternoon, goal diuresis
 1L.
   - Change to carvedilol, continue Captopril 12.5mg PO TID to decrease
   afterload in this pt w/ severe MR.  Goal BPs < 120 systolic w/o
   orthostatics.
   - d/ced Heparin, now on warfarin for LV thrombus and afib, goal INR [**2-10**]
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - On coumadin, INR 3.1, will hold dose today and restart tomorrow at
   2.5mg.
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 28.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   - continue to monitor
   # FEN:  Cardiac, diabetic diet, replete electrolytes PRN
   .
   # Prophylaxis: systemic anticoagulation for DVT prophylaxis, changed
   lansoprazole to protonix 40mg for ulcer prophylaxis given asa, plavix
   and coumadin, pt is on bowel regimen
   .
   # Code: FULL
   .
   # Dispo: call out to floor

2137-12-19 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started on lasix 160 PO w/ metolazone 5mg and 80lasix in afternoon.  ~
   600cc negative as of MN.  Much improved MS, patient communicative,
   [**Location (un) 103**] paper, discussing events with family.  Metoprolol changed to
   Carvedilol 12.5 [**Hospital1 **] w/ SBPs now in 110-120s.  Coumadin held today [**2-9**]
   INR of 3.1.  Coumadin of 2.5 tomorrow.  Slept overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-18**] 05:55 AM
   Vancomycin - [**2137-12-18**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2137-12-18**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-19**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 75 (70 - 89) bpm
   BP: 117/49(65) {106/40(59) - 145/96(105)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.7 kg (admission): 77.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,877 mL
                                                                    100 mL
   PO:
                                                                  1,160 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    717 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    550 mL
   Urine:
                                                                  2,480 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -603 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert,
   communicative
   HEENT: Eyes open reactive 3->2mm, EOMs intact, no sinus tenderness, no
   PND.
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles throughout lung fields
 up fields, L >
   R.
   Abdominal: +BS Soft
   Extremities: warm and well perfused, no edema b/l, dopplerable DP
   pulse.
   Skin:  Stage II ulcer on R buttock
   Neurologic: Alert, oriented X 2 (person, hospital, not time)  Pt. able
   to follow commands.  Strength grossly intact proximal to distal.  CNs
   V, VII
 XII grossly intact.  Speaking in Arabic and English.
   Labs / Radiology
   418 K/uL
   9.4 g/dL
   136 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   57 mg/dL
   102 mEq/L
   143 mEq/L
   27.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
                             [**2137-12-16**]  05:08 PM
                             [**2137-12-17**]  06:26 AM
                            [**2137-12-18**]  06:30 AM
   WBC
   14.7
   15.1
   16.0
   14.4
   Hct
   27.1
   29.0
   28.6
   27.8
   Plt
   349
   384
   412
   418
   Cr
   2.4
   2.4
   2.5
   2.5
   2.4
   2.4
   2.4
   TCO2
   28
   28
   26
   Glucose
   131
   153
   163
   [**Telephone/Fax (3) 2759**]
   Other labs: PT / PTT / INR:30.2/34.4/3.1, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:13.2 %, Mono:1.7 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Was intubated, now extuabated
   with leukocytosis, treating for PNA.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also has been
   treated for PNA given CXR findings and leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP, completed 10d course.  CXR unchanged from prior.  Has
   been afebrile with sputums showing GNRs and no growth on culture.  Pt.
   continues to be tachypneic w/ RR in 25-30.  Source of this unclear, but
   unlikely PNA at this point.  CXR changes persistent likely [**2-9**] old
   PNA..
   - Discontinue vancomycin and zosyn, completed 10d.
   - Continue pulmonary toilet with chest PT
   - Continue diuresis goal of -1L today
   # Leukocytosis.  Source unclear.  UA from [**12-13**] and Cx negative, [**12-16**]
   Urine cultures negative.  BCx negative to date.  Has been on Vanc and
   Zosyn for possible VAP, CXR w/ persistent RLL infiltrate.  Afebrile
   x4d, sputum GNRs but no growth on Cx.  Foley in place.  Aline d/ced.  C
   diff negative X 2.  [**Month (only) 11**] be stress response given that platelets are
   also rising.  No sinus tenderness on exam, no post nasal drip.  Will
   consider sinus CT of persistent WBC elevation and fever.
   - F/U BCx, Sputum studies.
   - d/c ABx
   # Altered mental status.  Pt waxing and [**Doctor Last Name 282**], most likely delirium
   [**2-9**] ICU setting and previous intubation/sedation.  Slowly improving but
   pt continues to be agitated at times.  Seroquel with good effect.
   D/ced all lines, but pt continues to require supplemental O2, this is
   likely [**2-9**] CHF.  No localizable neurologic findings on exam.  CT head
   of low yield.
   - Frequent reorientation, wean O2 as tolerated to remove NC, will
   attempt to minimize restraint use
   - continue to mobilize patient, OOB to chair, sleep hygiene (maintain
   awake status throughout the day, lights off at night, TV off)
   - Contianue Seroquel 25mg PO qHS for sedation with PRN Haldol
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Change  Metoprolol 25 mg [**Hospital1 **] to Carvedilol 12.5mg [**Hospital1 **] give elevated
   BPs.
   - Captopril 12.5 mg PO TID, will change to lisinopril prior to d/c.
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.   Required 10mg/hr lasix gtt for
   negative 1.3L.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of 19 and RVEDP of
   9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but still has
   elevated JVP, this has been unchanged since [**12-14**].  Pt. continues to
   have O2 requirement, likely from failure.
   - Will change lasix gtt to PO lasix 160 qam w/ metolazone 5mg and 80mg
   in afternoon, goal diuresis
 1L.
   - Change to carvedilol, continue Captopril 12.5mg PO TID to decrease
   afterload in this pt w/ severe MR.  Goal BPs < 120 systolic w/o
   orthostatics.
   - d/ced Heparin, now on warfarin for LV thrombus and afib, goal INR [**2-10**]
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - On coumadin, INR 3.1, will hold dose today and restart tomorrow at
   2.5mg.
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 28.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   - continue to monitor
   # FEN:  Cardiac, diabetic diet, replete electrolytes PRN
   .
   # Prophylaxis: systemic anticoagulation for DVT prophylaxis, changed
   lansoprazole to protonix 40mg for ulcer prophylaxis given asa, plavix
   and coumadin, pt is on bowel regimen
   .
   # Code: FULL
   .
   # Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-12-17**] 12:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-12-19 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started on lasix 160 PO w/ metolazone 5mg and 80lasix in
   afternoon.  Much improved MS, patient communicative, [**Location (un) 103**] paper,
   discussing events with family.  Metoprolol changed to Carvedilol
   12.5 [**Hospital1 **] w/ SBPs now in 110-120s.  Coumadin held today [**2-9**] INR of 3.1.
   Coumadin of 2.5 tomorrow.  Slept overnight.
   This am he is alert and oriented and denies chest pain, shortness of
   breathing, or other complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-18**] 05:55 AM
   Vancomycin - [**2137-12-18**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2137-12-18**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-19**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 75 (70 - 89) bpm
   BP: 117/49(65) {106/40(59) - 145/96(105)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.7 kg (admission): 77.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,877 mL
                                                                    100 mL
   PO:
                                                                  1,160 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    717 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    550 mL
   Urine:
                                                                  2,480 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -603 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert,
   communicative
   HEENT: OP clear
   Neck: JVP 8 cm
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles throughout lung fields.
   Abdominal: +BS soft, NTND
   Extremities: warm and well perfused, no edema b/l.
   Skin:  Stage II ulcer on R buttock
   Neurologic: Alert, oriented X 3.  Pt. able to follow commands.   CNs V,
   VII
 XII grossly intact.  Speaking English.
   Labs / Radiology
   418 K/uL
   9.4 g/dL
   136 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   57 mg/dL
   102 mEq/L
   143 mEq/L
   27.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
                             [**2137-12-16**]  05:08 PM
                             [**2137-12-17**]  06:26 AM
                            [**2137-12-18**]  06:30 AM
   WBC
   14.7
   15.1
   16.0
   14.4
   Hct
   27.1
   29.0
   28.6
   27.8
   Plt
   349
   384
   412
   418
   Cr
   2.4
   2.4
   2.5
   2.5
   2.4
   2.4
   2.4
   TCO2
   28
   28
   26
   Glucose
   131
   153
   163
   [**Telephone/Fax (3) 2759**]
   Other labs: PT / PTT / INR:30.2/34.4/3.1, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:13.2 %, Mono:1.7 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% on [**12-10**].  Was intubated, now extuabated
   with leukocytosis, treating for PNA.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also has been
   treated for PNA given CXR findings and leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP, completed 10d course.  CXR unchanged from prior.  Has
   been afebrile with sputums showing GNRs and no growth on culture.  Pt.
   continues to be tachypneic w/ RR in 25-30.  Source of this unclear, but
   unlikely PNA at this point.  CXR changes persistent likely [**2-9**] old
   PNA..
   - Discontinue vancomycin and zosyn, completed 10d.
   - Continue pulmonary toilet with chest PT
   - Continue diuresis goal of -1L today
   # Leukocytosis.  Source unclear.  UA from [**12-13**] and Cx negative, [**12-16**]
   Urine cultures negative.  BCx negative to date.  Has been on Vanc and
   Zosyn for possible VAP, CXR w/ persistent RLL infiltrate.  Afebrile
   x4d, sputum GNRs but no growth on Cx.  Foley in place.  Aline d/ced.  C
   diff negative X 2.  [**Month (only) 11**] be stress response given that platelets are
   also rising.  No sinus tenderness on exam, no post nasal drip.  Will
   consider sinus CT of persistent WBC elevation and fever.
   - F/U BCx, Sputum studies.
   - d/c ABx
   # Altered mental status.  Pt waxing and [**Doctor Last Name 282**], most likely delirium
   [**2-9**] ICU setting and previous intubation/sedation.  Slowly improving but
   pt continues to be agitated at times.  Seroquel with good effect.
   D/ced all lines, but pt continues to require supplemental O2, this is
   likely [**2-9**] CHF.  No localizable neurologic findings on exam.  CT head
   of low yield.
   - Frequent reorientation, wean O2 as tolerated to remove NC, will
   attempt to minimize restraint use
   - continue to mobilize patient, OOB to chair, sleep hygiene (maintain
   awake status throughout the day, lights off at night, TV off)
   - Contianue Seroquel 25mg PO qHS for sedation with PRN Haldol
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Change  Metoprolol 25 mg [**Hospital1 **] to Carvedilol 12.5mg [**Hospital1 **] give elevated
   BPs.
   - Captopril 12.5 mg PO TID, will change to lisinopril prior to d/c.
   # PUMP:  Echo here showed EF 35%, ICD in place.  His severe MR may be
   worsened with his current dilated LV.   Required 10mg/hr lasix gtt for
   negative 1.3L.  Per cath [**2137-12-12**], LVEDP
 25, Wedge of 19 and RVEDP of
   9mmHg.  CI 3.7.  Patient appears euvolemic on exam, but still has
   elevated JVP, this has been unchanged since [**12-14**].  Pt. continues to
   have O2 requirement, likely from failure.
   - Will change lasix gtt to PO lasix 160 qam w/ metolazone 5mg and 80mg
   in afternoon, goal diuresis
 1L.
   - Change to carvedilol, continue Captopril 12.5mg PO TID to decrease
   afterload in this pt w/ severe MR.  Goal BPs < 120 systolic w/o
   orthostatics.
   - d/ced Heparin, now on warfarin for LV thrombus and afib, goal INR [**2-10**]
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Beta-blocker, as above
   - On coumadin, INR 3.1, will hold dose today and restart tomorrow at
   2.5mg.
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 28.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.4.  FEURea
   12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   - continue to monitor
   # FEN:  Cardiac, diabetic diet, replete electrolytes PRN
   .
   # Prophylaxis: systemic anticoagulation for DVT prophylaxis, changed
   lansoprazole to protonix 40mg for ulcer prophylaxis given asa, plavix
   and coumadin, pt is on bowel regimen
   .
   # Code: FULL
   .
   # Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-12-17**] 12:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-12-19 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started on lasix 160 PO w/ metolazone 5mg and 80lasix in
   afternoon.  Much improved MS, patient communicative, [**Location (un) 103**] paper,
   discussing events with family.  Metoprolol changed to Carvedilol
   12.5 [**Hospital1 **] w/ SBPs now in 110-120s.  Coumadin held today [**2-9**] INR of 3.1.
   Coumadin of 2.5 tomorrow.  Slept overnight.
   This am he is alert and oriented and denies chest pain, shortness of
   breathing, or other complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-12-18**] 05:55 AM
   Vancomycin - [**2137-12-18**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2137-12-18**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-19**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 75 (70 - 89) bpm
   BP: 117/49(65) {106/40(59) - 145/96(105)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.7 kg (admission): 77.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,877 mL
                                                                    100 mL
   PO:
                                                                  1,160 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    717 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    550 mL
   Urine:
                                                                  2,480 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -603 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Middle-aged male lying in bed, awake and alert,
   communicative
   HEENT: OP clear
   Neck: JVP 8 cm
   Cardiovascular: irregularly irregular, [**2-13**] Holosystolic murmur at apex
   Respiratory / Chest: crackles half way up his lung fields
   Abdominal: +BS soft, NTND
   Extremities: warm and well perfused, no edema b/l.
   Skin:  Stage II ulcer on R buttock
   Neurologic: Alert, oriented X 3.  Pt. able to follow commands.   CNs V,
   VII
 XII grossly intact.  Speaking English.
   Labs / Radiology
   418 K/uL
   9.4 g/dL
   136 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   57 mg/dL
   102 mEq/L
   143 mEq/L
   27.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2137-12-14**]  10:43 AM
                             [**2137-12-14**]  06:02 PM
                             [**2137-12-14**]  06:14 PM
                             [**2137-12-15**]  03:11 AM
                             [**2137-12-15**]  07:48 AM
                             [**2137-12-16**]  12:12 AM
                             [**2137-12-16**]  04:01 AM
                             [**2137-12-16**]  05:08 PM
                             [**2137-12-17**]  06:26 AM
                            [**2137-12-18**]  06:30 AM
   WBC
   14.7
   15.1
   16.0
   14.4
   Hct
   27.1
   29.0
   28.6
   27.8
   Plt
   349
   384
   412
   418
   Cr
   2.4
   2.4
   2.5
   2.5
   2.4
   2.4
   2.4
   TCO2
   28
   28
   26
   Glucose
   131
   153
   163
   [**Telephone/Fax (3) 2759**]
   Other labs: PT / PTT / INR:30.2/34.4/3.1, CK / CKMB /
   Troponin-T:111/3/0.12, ALT / AST:30/24, Alk Phos / T Bili:79/0.8,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:13.2 %, Mono:1.7 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:204 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   81M with history of coronary artery disease and depressed EF,
   presenting after respiratory failure, found to have EF of 10% with
   3+MR, improved to EF of 35% now extubated and afebrile off antibiotics.
   # PULM:  Hypoxemia initially felt to be [**2-9**] CHF, but also had been
   treated for PNA given CXR findings and leukocytosis (developed after
   ABx initiation).    BCx negative to date.  Has been on Vanc and Zosyn
   for possible VAP, completed 10d course.  CXR unchanged from prior.  Has
   been afebrile with sputums showing GNRs and no growth on culture.  Pt.
   continues to be tachypneic w/ RR in 25-30.  Source of this unclear, but
   unlikely PNA at this point.  CXR changes persistent yesterday likely
   [**2-9**] old PNA..  Vanc and zosyn were stopped on [**12-18**].  The patient was
   600 cc negative yesterday and is negative 9.9 L for his ICU stay this
   am.  Patient now sating in the high 90
s on 2L.
   - Continue pulmonary toilet with chest PT
   - Continue maintenance diuretics with metolazone 5 mg daily and 160 mg
   lasix qam and 80 mg of lasix qpm.
   # Leukocytosis.  WBC decreased to 13.6 today from 14.4 yesterday.
   Source unclear.  UA from [**12-13**] and Cx negative, [**12-16**] Urine cultures
   negative.  BCx negative to date.  Had been on Vanc and Zosyn (were
   stopped on [**12-18**]) for possible VAP, CXR w/ persistent RLL infiltrate.
   Afebrile x5d, sputum GNRs but no growth on Cx.  C diff negative X 2.
   [**Month (only) 11**] be stress response given that platelets are also rising.
   - Will continue to follow and CIS.
   # Altered mental status.  Resolved.  This am the patient is alert and
   oriented x3.  The patient
s change in mental status was likely delirium
   as he was waxing and [**Doctor Last Name 282**], most likely delirium [**2-9**] ICU setting and
   previous intubation/sedation.
   # CORONARIES:  Known 3VD with most recent cath showing in-stent
   restenosis of SVG to OM.  ECG difficult to interpret with RBBB, has
   anterior ST changes.   Repeat cath again showing 3VD, no intervention.
   [**Hospital 2679**] medical management.
   - Continue with aspirin and plavix
   - Continue Carvedilol 12.5mg [**Hospital1 **], atorvastatin 80 mg daily.
   # Acute on chronic systolic heart failure:  Echo here showed EF 35%,
   ICD in place.  His severe MR may be worsened with his current dilated
   LV.  Patient appears euvolemic on exam, but still has elevated JVP,
   this has been unchanged since [**12-14**].  Pt. continues to have O2
   requirement, likely from failure.
   - Continue diuresis with PO lasix 160 qam w/ metolazone 5mg and 80mg in
   afternoon, goal diuresis
 1L.
   - Continue carvedilol and change Captopril 12.5mg PO TID to lisinopril
   20 mg daily decrease afterload in this pt w/ severe MR.  Goal BPs < 120
   systolic w/o orthostatics.
   - d/ced Heparin, now on warfarin for LV thrombus and afib, goal INR [**2-10**]
   # RHYTHM:  Continues to be in afib.  Unclear if he has been in this
   rhythm in the past.  Currently rate controlled.
   - Carvedilol, as above
   - On coumadin, INR 2.9.  His dose was held yesterday.  Will restart
   today at a lower dose of  2.5mg.
   # Ucler, stage II.  Documented on arrival to CCU.  No signs of
   infection.  Wound consult.
   - Turn Q2H for now, if wound opens up will consider dressings.
   # ANEMIA:  HCT cont to be low but stable, today is 29.0.  Baseline is
   unclear though most likely in the low 30s.  Fe studies consistent w/
   combination of Fe deficiency and ACD.
   - continue to monitor
   # RENAL FAILURE:  ARF on CKD.  Based on old labs, appears to have CKD
   with baseline SCr in the high 1s.  Currently stable at 2.2 (from 2.2).
   FEURea 12%, strongly suggestive of pre-renal, likely due to aggressive
   diuresis.  Most likely the baseline is higher than Cr of 1 as pt
   continues to be slightly volume up, baseline likely 2.2-2.4.  Will
   monitor for ATN.
   - continue to monitor
   # FEN:  Cardiac, diabetic diet, replete electrolytes PRN
   .
   # Prophylaxis: systemic anticoagulation for DVT prophylaxis protonix
   40mg for ulcer prophylaxis given asa, plavix and coumadin, pt is on
   bowel regimen
   .
   # Code: FULL
   .
   # Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-12-17**] 12:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: